US07205318B2
A mixture of methyl 4-iodobenzoate (5.24 g, 20.0 mmol), caprolactam (2.26 g, 20.0 mmol), K2CO3 (3.58 g, mmol), CuI (1.53 g, mmol), and 1,10-phenantroline (1.45 g, 35 mmol, 3.3 eq) was heated at 120–125° C. for 15 h. To the cooled mixture was added EtOAc/H2O. The organic layer was washed with H2O and brine, dried over MgSO4, filtered, and concentrated to dryness. The residue was purified by flash chromatography (hexanes:EtOAc=1:1 to 0:1) to give pure 4-(2-oxo-azepan-1-yl)-benzoic acid methyl ester as a white solid (2.56 g, yield: 51.8%). 1H NMR (DMSO-d6) δ 8.01 (d, J=8.6 Hz, 2H), 7.31 (d, J=8.6 Hz, 2H), 3.87 (s, 3H), 3.76 (m, 2H), 2.68 (m, 2H), 1.79 (m, 4H) ppm. LC-MS (ESI) 248.28 (M+H), tR=2.69 min (10–90% MeOH in H2O with 10 mM NH4OAc in a 4-min run).

reactant | methyl 4-iodobenzoate | 20.0 mmol, 5.24 g | IC1=CC=C(C(=O)OC)C=C1 | C8H7IO2
reactant | caprolactam | 20.0 mmol, 2.26 g | C1(CCCCCN1)=O | C6H11NO
reactant | K2CO3 | 3.58 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,10-phenantroline | 35 mmol, 1.45 g, 3.3 eq | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
catalyst | CuI | 1.53 g | [Cu]I
solvent | EtOAc H2O | CCOC(=O)C.O
product | 4-(2-oxo-azepan-1-yl)-benzoic acid methyl ester | 2.56 g, yield: 51.8% | COC(C1=CC=C(C=C1)N1C(CCCCC1)=O)=O | C14H17NO3
